US03939166
4-Chloro-7-nitro-5-cyano-2-pentafluoroethylbenzimidazole is reacted with 2-cyclohexylethylamine to obtain 4-(2-cyclohexylethylamino)-7-nitro-5-cyano-2-pentafluoroethylbenzimidazole, m.w., 329.3.

reactant | 4-Chloro-7-nitro-5-cyano-2-pentafluoroethylbenzimidazole | ClC1=C(C=C(C=2N=C(NC21)C(C(F)(F)F)(F)F)[N+](=O)[O-])C#N | C10H2ClF5N4O2
reactant | 2-cyclohexylethylamine | C1(CCCCC1)CCN | C8H17N
product | 4-(2-cyclohexylethylamino)-7-nitro-5-cyano-2-pentafluoroethylbenzimidazole | C1(CCCCC1)CCNC1=C(C=C(C=2N=C(NC21)C(C(F)(F)F)(F)F)[N+](=O)[O-])C#N | C18H18F5N5O2
